US07572820B2
B. 4-Chloro-5-[(phenylmethyl)oxy]-1-(phenylsulfonyl)-2-propyl-1H-indole
Synthesized as described in Example 22C from 5-[(phenylmethyl)oxy]-1-(phenylsulfonyl)-2-propyl-1H-indole and sulfuryl chloride: MS (ES) m/z 441 (M+1).

reactant | 5-[(phenylmethyl)oxy]-1-(phenylsulfonyl)-2-propyl-1H-indole | C1(=CC=CC=C1)COC=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)CCC | C24H23NO3S
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 4-Chloro-5-[(phenylmethyl)oxy]-1-(phenylsulfonyl)-2-propyl-1H-indole | ClC1=C2C=C(N(C2=CC=C1OCC1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)CCC | C24H22ClNO3S
